US09079930B2
Step E: 4-((S)-(4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxamido)(phenyl)methyl)phenyl(methyl)phosphinic acid (22-1)
Ethyl 4-((S)-(4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxamido)(phenyl)methyl)phenyl(methyl)phosphinate, 22-d, (2 g, 4.32 mmol) was dissolved in 7.2 ml of dioxane and treated with 7.2 ml of 3N NaOH. The mixture was heated at 80° C. for one hour. Then it was concentrated under vacuum and the residue was diluted with water and washed with ethyl acetate. The aqueous layer was acidified with conc. HCl to pH=1 and the expected product, 22-1, crashed out (1.4 g of crude). The product can be further purified via prep-HPLC. 1H NMR (300 MHz, DMSO-d6): δ 10.40 (br, 1H), 8.64 (s, 1H), 8.44 (s, 1H), 8.06 (s, 1H), 7.60 (m, 2H), 7.38 (m, 7H), 6.73 (s, 1H), 6.32 (d, 1H), 1.51 (d, 3H). (M−H)−=448.1.

reactant | Ethyl 4-((S)-(4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxamido)(phenyl)methyl)phenyl(methyl)phosphinate | OC1=NC(=NC=C1C(=O)N[C@H](C1=CC=C(C=C1)P(OCC)(=O)C)C1=CC=CC=C1)N1N=CC=C1 | C24H24N5O4P
reactant | NaOH | 3N, 7.2 ml | [OH-].[Na+]
solvent | dioxane | 7.2 ml | O1CCOCC1 | C4H8O2
product | 4-((S)-(4-hydroxy-2-(1H-pyrazol-1-yl)pyrimidine-5-carboxamido)(phenyl)methyl)phenyl(methyl)phosphinic acid | OC1=NC(=NC=C1C(=O)N[C@H](C1=CC=C(C=C1)P(O)(=O)C)C1=CC=CC=C1)N1N=CC=C1 | C22H20N5O4P
